US05240939
Diphenic anhydride (10 g, 0.045 mol) was dissolved in 30 ml of methanol and refluxed overnight. Removal of the solvent and drying the product under vacuum afforded 11.8 g of diphenic acid momo-methyl ester.

reactant | Diphenic anhydride | 0.045 mol, 10 g | C=12C(C(=O)OC(C=3C2=CC=CC3)=O)=CC=CC1 | C14H8O3
reactant | methanol | 30 ml | CO | CH4O
product | diphenic acid | 11.8 g | C=1(C(C(=O)O)=CC=CC1)C=1C(C(=O)O)=CC=CC1 | C14H10O4
